data/pmechdb/original/mc_train_fold0/raw/train.txt
COC1=CC=C(C=C1)C2C(=CC3=CC=C(C=C3)O)[C:20](=[O:21])C(=O)N2C4=CC=CC=C4.C1=CC(=C(C=C1)O)[NH2:10].CC(=O)O>>COC1=CC=C(C=C1)C2C(=CC3=CC=C(C=C3)O)[C:20](C(=O)N2C4=CC=CC=C4)([NH2+:10]C5=C(C=CC=C5)O)[O-:21].CC(=O)O 10=20;20,21=21
CCC(=O)O[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.O[S+:20](=O)=O>>CCC(=O)O[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[S:20](=O)(=O)O 10,11=10,20;12,13=11,12
[H:20][C:21]1([CH+:22]C=C(O1)OC)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.COC1=C[CH:22]=[C:21](O1)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][O+:21](CC)C1(CCCC1)C(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C1(CCCC1)C(C)C 10=20;20,21=21
CC[Si:20](C)(C)C.[Cl-:10]>>CC[Si-:20](C)(C)(C)[Cl:10] 10=20,
[H:20][CH:21]([CH:22]=[NH+:23]CC(=O)NC1=C(C=C(C=C1)OCCOC(=O)C)OC)C(C)(C)C.CC[N:10](CC)CC.C(=O)(C(F)(F)F)[O-].O>>[H:20][N+:10](CC)(CC)CC.CC(=O)OCCOC1=CC(=C(C=C1)NC(=O)C[NH:23][CH:22]=[CH:21]C(C)(C)C)OC.C(=O)(C(F)(F)F)[O-].O 10=20;22,23=23;20,21=21,22
C[CH:20](C(=O)C)[Br:21].C[C:11](=[CH2:10])[O-:12]>>C[CH:20]([CH2:10][C:11](=[O:12])C)C(=O)C.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21][C:22](=[O+:23]CCCC1CCCCC(=O)O1)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:22](=[O:21])[O:23]CCCC1CCCCC(=O)O1 10=20;22,23=23;20,21=21,22
[H:20][O+:21](CC1=NC(=NC(=C1)OC)OC)I2(C3=C(C=CC=C3)C(=O)O2)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)OI1(C2=C(C=CC=C2)C(=O)O1)([O:21]CC3=NC(=NC(=C3)OC)OC)OC(=O)C 10=20;20,21=21
[H:20][OH+:21]CC1=CC=CC=C1.C1C(CC1=O)C(O)([OH:10])OCC2=CC=CC=C2.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]C(C1CC(=O)C1)(O)OCC2=CC=CC=C2.C1=CC=C(C=C1)C[OH:21].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C[NH+]1CCC(CC1)([C:20]#[NH+:21])C2=CC=CC=C2.C[OH:10].[O-]S(=O)(=O)[O-]>>C[NH+]1CCC(CC1)(C2=CC=CC=C2)[C:20](=[NH:21])[OH+:10]C.[O-]S(=O)(=O)[O-] 10=20;20,21=21
[B-:10](CCCC)(CCCC)([OH2+])[OH+:11]C(CCC1=CC=CC=C1)CC(=O)CC(C(C)C)OCC2=CC=C(C=C2)OC>>[B:10](CCCC)(CCCC)[OH2+].CC(C)C(CC(=O)CC(CCC1=CC=CC=C1)[OH:11])OCC2=CC=C(C=C2)OC 10,11=11
CC(C)O[Al-:10](O)([OH+:11]C1CC23C(=CC(=O)N2CCC4=C3C=C(C=C4)OC)C=C1)OC(C)C.CC(C)O.CC(=O)C.O>>CC(C)O[Al:10](O)OC(C)C.COC1=CC2=C(CCN3C24CC(C=CC4=CC3=O)[OH:11])C=C1.CC(C)O.CC(=O)C.O 10,11=11
[H:20][O:21]C.[C-:10]#CC[O-]>>[H:20][C:10]#CC[O-].C[O-:21] 10=20;20,21=21
CCOP(=[O+][Al-](C)(C)[O:10]C1=CC=CC=C1)(OCC)OC(C)C.CCO[P:22](=[O+:23][Al-](C)(C)OC1=CC=CC=C1)(OCC)[O:21][CH:20](C)C>>CCO[P:22](=[O:21])(OCC)[O:23][Al-](C)(C)OC1=CC=CC=C1.CCOP(=[O+][Al-](C)(C)[O+:10](C1=CC=CC=C1)[CH:20](C)C)(OCC)OC(C)C 10=20;22,23=23;20,21=21,22
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(OCC4=C(C=C(C=C4)Br)Cl)[Br:11].C(Br)(Br)Br>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=C(C=C(C=C4)Br)Cl.[Br-:11].C(Br)(Br)Br 10,11=11
[H:20][OH2+:21].CC#CC(C)[O-:10]>>[H:20][O:10]C(C)C#CC.[OH2:21] 10=20;20,21=21
CCCCCCCCO[C:20](C1=CC(=C(C=C1)O)O)([OH2+:21])[OH:10].CCCCCCCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1CCOC1>>CCCCCCCCO[C:20](=[OH+:10])C1=CC(=C(C=C1)O)O.[OH2:21].CCCCCCCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1CCOC1 10=20;20,21=21
CC1(CCCC2(C1C(C=C(C2(C[OH:10])O)CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)C.C[S+:20](C)OC(=NC1CCCCC1)NC2CCCCC2.C1=CC=NC=C1.C(=O)(C(F)(F)F)[O-]>>CC1(CCCC2(C1C(C=C(C2(C[OH+:10][S:20](C)(C)OC(=NC3CCCCC3)NC4CCCCC4)O)CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)C.C1=CC=NC=C1.C(=O)(C(F)(F)F)[O-] 10=20,
CCOC(=O)C(=C(C)[C:11](=[CH2:10])[O-:12])O.CCOC(=O)[C:20](=[O:21])OCC>>CCOC(=O)C(=C(C)[C:11](=[O:12])[CH2:10][C:20](C(=O)OCC)([O-:21])OCC)O 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CCC(=[N-:10])C#CC>>[H:20][N:10]=C(CC)C#CC.[OH2:21] 10=20;20,21=21
C1=C[CH:10]=[C:11](C=C1)CCCC[C+:20]=O>>C1CC[C+:11]2C=CC=C[CH:10]2[C:20](=O)C1 10,11=10,20
[H:10][B-:11](CC)(CC)CC.[Li][O+:21]=[C:20](CCC)N(CCC)CCC>>[H:10][C:20](CCC)(N(CCC)CCC)[O:21][Li].[B:11](CC)(CC)CC 10,11=10,20;20,21=21
C1=NC(=C(S1)[CH:20]([OH:10])[OH+:21]CCO)Cl.C1CCOC1.C1COCCO1.O.[Cl-]>>C(CO)[OH:21].C1=NC(=C(S1)[CH:20]=[OH+:10])Cl.C1CCOC1.C1COCCO1.O.[Cl-] 10=20;20,21=21
[H:20][CH:21](CC)[C+:22](C)C.CC(C)(C)[OH:10]>>[H:20][OH+:10]C(C)(C)C.CC[CH:21]=[C:22](C)C 10=20;20,21=21,22
C1CCC(CC1)[C:20]([NH3+:21])(O)[OH:10]>>C1CCC(CC1)[C:20](=[OH+:10])O.[NH3:21] 10=20;20,21=21
[H:20][C:21]1(C=CC=C([C:22]1=[O:23])C2=CC=CC=C2)C(=O)[O-].C1=CC=C(C=C1)C2=C(C=CC=C2)[O-:10].[Na+]>>[H:20][O:10]C1=C(C=CC=C1)C2=CC=CC=C2.C1=CC=C(C=C1)C2=CC=C[C:21](=[C:22]2[O-:23])C(=O)[O-].[Na+] 10=20;22,23=23;20,21=21,22
CC[CH2:20][Br:21].[C-:10]#N>>CC[CH2:20][C:10]#N.[Br-:21] 10=20;20,21=21
[H:20][OH2+:21].[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4N)OC.N(=O)[OH:10]>>[H:20][OH+:10]N=O.[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4N)OC.[OH2:21] 10=20;20,21=21
[H:10][BH2-:11]C#N.CCC12CCC3=C(CC[N+:21](=[CH:20]1)CC=C2)C4=C(N3)C=CC=C4.CC(=O)[O-].[Na+]>>[H:10][CH:20]1C2(CCC3=C(CC[N:21]1CC=C2)C4=C(N3)C=CC=C4)CC.[BH2:11]C#N.CC(=O)[O-].[Na+] 10,11=10,20;20,21=21
